US05492925
Preparation of 3 -Chlorobenzo[b]thiophene-2-carbonitrile
Trifluoroacetic anhydride (11.90 g, 56.6 mmol) is added dropwise to a mixture of pyridine (5.23 g, 66.1 mmol) and 3-chlorobenzo[b]thiophene-2-carboxamide (10.0 g, 47.2 mmol) in methylene chloride at 0° C. The reaction mixture is warmed to room temperature over one hour, diluted with water and extracted with ether. The combined organic extracts are washed sequentially with water, one molar hydrochloric acid and brine, dried over MgSO4 and concentrated in vacuo to obtain a yellow solid. The solid is recrystallized from ethyl acetate and hexane to give the title product as off-white needles (8.80 g, 96%).

reactant | Trifluoroacetic anhydride | 56.6 mmol, 11.90 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 66.1 mmol, 5.23 g | N1=CC=CC=C1 | C5H5N
reactant | 3-chlorobenzo[b]thiophene-2-carboxamide | 47.2 mmol, 10.0 g | ClC=1C2=C(SC1C(=O)N)C=CC=C2 | C9H6ClNOS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3 -Chlorobenzo[b]thiophene-2-carbonitrile | 8.80 g, 96% | ClC=1C2=C(SC1C#N)C=CC=C2 | C9H4ClNS
